US07763639B2
3-TRIMETHYLSILYL-2-FLUOROBROMOBENZENE
To a solution of 1-bromo-2-fluorobenzene (2.0 g, 11.42 mmol) and trimethylsilyl chloride (5.79 ml, 45.69 mmol) in dry tetrahydrofurane (30 ml) at −78° C., under nitrogen, lithium diisopropylamide (2 M in hexane, 28 ml, 12.56 mmol) was added dropwise. The mixture was stirred for 1 h and then brought to ambient temperature. 10% Hydrochloric acid (100 ml) was added and the mixture was extracted with ethyl acetate (3×100 ml). The combined organic phases was dried (MgSO4), filtered and evaporated to dryness. The oily residue was purified by flash column chromatography (ethyl acetate/isooctane, 1:1) to give the title compound (2.3 g). MS m/z (rel. intensity, 70 eV) 248 (M+, 22), 246 (20), 151 (96), 105 (bp), 75 (64).

reactant | 1-bromo-2-fluorobenzene | 11.42 mmol, 2.0 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | trimethylsilyl chloride | 45.69 mmol, 5.79 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | lithium diisopropylamide | 12.56 mmol, 2 M, 28 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Hydrochloric acid | 100 ml | Cl | ClH
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | 3-TRIMETHYLSILYL-2-FLUOROBROMOBENZENE | 2.3 g | C[Si](C=1C(=C(C=CC1)Br)F)(C)C | C9H12BrFSi
